US08957073B2
2-(3-(3-phenylpyrazin-2-yl)azetidin-1-yl)quinoline
A glass microwave reaction vessel was charged with 2-(3-(3-chloropyrazin-2-yl)azetidin-1-yl)quinoline (0.085 g, 0.286 mmol), phenylboronic acid (0.070 g, 0.573 mmol, Aldrich), potassium phosphate (0.152 g, 0.716 mmol, Alfa Aesar), bis(di-tert-butyl(4-dimethylaminophenyl)phosphine)dichloropalladium (II) (0.020 g, 0.029 mmol, Aldrich), water (0.400 mL) and dioxane (1.6 mL). The mixture was purged with Argon gas and heated in an Initiator microwave reactor (Personal Chemistry, Biotage AB, Inc., Upssala, Sweden) at 100° C. for 30 min. LCMS showed the product. The mixture was diluted with EtOAc and washed with Na2CO3 and brine. The organic layer was dried over Na2SO4 and concentrated in vacuo. The crude was purified by silica gel chromatography (12 g, 10%-100% EtOAc-Hexane). The product was obtained as a white solid (85 mg, 88%).

reactant | 2-(3-(3-chloropyrazin-2-yl)azetidin-1-yl)quinoline | 0.286 mmol, 0.085 g | ClC=1C(=NC=CN1)C1CN(C1)C1=NC2=CC=CC=C2C=C1 | C16H13ClN4
reactant | phenylboronic acid | 0.573 mmol, 0.070 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | potassium phosphate | 0.716 mmol, 0.152 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | water | 0.400 mL | O | H2O
catalyst | bis(di-tert-butyl(4-dimethylaminophenyl)phosphine)dichloropalladium (II) | 0.029 mmol, 0.020 g | CC(C)(C)P(C1=CC=C(C=C1)N(C)C)C(C)(C)C.CC(C)(C)P(C1=CC=C(C=C1)N(C)C)C(C)(C)C.Cl[Pd]Cl
solvent | dioxane | 1.6 mL | O1CCOCC1 | C4H8O2
product | 2-(3-(3-phenylpyrazin-2-yl)azetidin-1-yl)quinoline | 85 mg, 88% | C1(=CC=CC=C1)C=1C(=NC=CN1)C1CN(C1)C1=NC2=CC=CC=C2C=C1 | C22H18N4
